US07138399B2
R2. 2-Amino-3-nitro-5-pyridin-3-yl-pyridine
0.21 g of dichlorobis(tricyclohexylphosphine)palladium, 0.66 g of 3-pyridyl-boronic acid and 14 ml of a 2N sodium carbonate solution are added to a solution of 1.02 g of 2-amino-5-bromo-3-nitropyridine in 40 ml of degassed dioxane. The mixture is heated to reflux under N2 for 28 hours and, after cooling and addition of water, extracted three times with dichloromethane. The combined organic phases are dried over sodium sulfate, concentrated and the residue is crystallized from ethyl acetate. This gives 0.58 g of the title compound of m.p. 226–228° C. The mass spectrum shows the molecular peak MH+ at 217.2 Da.

reactant | 3-pyridyl-boronic acid | 0.66 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-amino-5-bromo-3-nitropyridine | 1.02 g | NC1=NC=C(C=C1[N+](=O)[O-])Br | C5H4BrN3O2
reactant | water | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(tricyclohexylphosphine)palladium | 0.21 g | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.Cl[Pd]Cl
product | 2-Amino-3-nitro-5-pyridin-3-yl-pyridine | NC1=NC=C(C=C1[N+](=O)[O-])C=1C=NC=CC1 | C10H8N4O2
